* C:\Users\calvi\OneDrive - University of Pittsburgh\EGR - Undergraduate Research\Audio Processing\BSS_Microphone_System\Microphone\LTspice Circuit\Microphone input.asc
XU1 N005 N001 VCC 0 N002 OPA1656
V1 VCC 0 15
V§MIC N003 0 SINE(0 0.1m 5k)
R1 VCC N003 13.7k
C3 N001 N003 2.2µ
R2 N002 N001 75k
C2 N002 N001 10p
R3 VCC N005 100k
R5 N005 0 100k
C6 N005 0 2.2µ
R4 N004 N002 49.9
C5 out N004 2.2µ
R6 out 0 100k
.include C:\Users\calvi\AppData\Local\LTspice\lib\sub\OPA1656.lib
.tran 1m
.backanno
.end
